US04590082
PREPARATION OF CYCLOPENTYL-3-MERCAPTOPROPIONATE
Into a 1 liter reaction flask equipped with heating mantle, stirrer, thermometer and reflux condenser are placed 172 grams of cyclopentanol; 265 grams of 3-mercaptopropionic acid and 0.5 grams of paratoluene sulfonic acid. The reaction mass is heated to reflux and reflux is continued for a period of 8 hours. At the end of the 8 hour period, the reaction mass is fractionally distilled on a 2" splash column yielding the following fractions:

reactant | cyclopentanol | 172 grams | C1(CCCC1)O | C5H10O
reactant | 3-mercaptopropionic acid | 265 grams | SCCC(=O)O | C3H6O2S
reactant | paratoluene sulfonic acid | 0.5 grams | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | CYCLOPENTYL-3-MERCAPTOPROPIONATE | C1(CCCC1)OC(CCS)=O | C8H14O2S
